US04920119
639 mg of 3-amino-2-phenyl-4-pyridinecarboxamide in 7 ml of concentrated hydrochloric acid were stirred in an ice-bath during the addition of 240 mg of sodium nitrite in 2 ml of water. After 0.5 hour aqueous sodium bicarbonate solution was added until the mixture was basic and the produce was then extracted into ethyl acetate. The ethyl acetate extract was dried over sodium sulphate and evaporated, and the residue was recrystallized from ethanol to yield 420 mg of 8-phenylpyrido[3,4-d]-1,2,3-triazin-4(3H)-one of melting point 211° C. (dec.)

reactant | 3-amino-2-phenyl-4-pyridinecarboxamide | 639 mg | NC=1C(=NC=CC1C(=O)N)C1=CC=CC=C1 | C12H11N3O
reactant | sodium nitrite | 240 mg | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | 7 ml | Cl | ClH
solvent | water | 2 ml | O | H2O
product | 8-phenylpyrido[3,4-d]-1,2,3-triazin-4(3H)-one | 420 mg | C1(=CC=CC=C1)C1=NC=CC2=C1N=NNC2=O | C12H8N4O
